US05364871
A mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (1.5 g), triethylamine (1.8 ml), (furfurylthio)acetic acid (0.8 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.0 g) in N,N-dimethylformamide (15 ml) was stirred at ambient temperature for 18 hours. The mixture was added to a mixture of ethyl acetate and water and the separated organic layer was dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (9:1, V/V). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-[6-(furfurylthio)acetylaminomethylpyridin-2-yl)thiazole (0.73 g).

reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.5 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | (furfurylthio)acetic acid | 0.8 g | C(C1=CC=CO1)SCC(=O)O | C7H8O3S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.0 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(diaminomethyleneamino)-4-[6-(furfurylthio)acetylaminomethylpyridin-2-yl)thiazole | 0.73 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(CSCC1=CC=CO1)=O | C17H18N6O2S2
